US07291632B2
Cyclobutanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride
Prepare according to procedure in Example 69 starting with N-Methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (175 mg, 0.794 mmol), cyclobutanecarbonyl chloride (136 μL, 1.19 mmol), and pyridine (15 mL) to yield 237 mg (88%) of the title compound: mass spectrum (ion spray): m/z=303.1 (M+1); Analysis Calcd for C17H27N4OCl.0.1H2O: C, 59.93; H, 8.05; N, 16.45. Found: C, 59.81, H, 7.93, N, 16.45. mp 258–60° C.

reactant | N-Methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.794 mmol, 175 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | cyclobutanecarbonyl chloride | 1.19 mmol, 136 μL | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | Cyclobutanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride | 237 mg, 88% | Cl.CN(C1=CC=CC(=N1)NC(=O)C1CCC1)C1CCN(CC1)C | InChI=1S/C17H26N4O.ClH/c1-20-11-9-14(10-12-20)21(2)16-8-4-7-15(18-16)19-17(22)13-5-3-6-13;/h4,7-8,13-14H,3,5-6,9-12H2,1-2H3,(H,18,19,22);1H
